US06605626B2
Preparation of N4-Acetyl-N1-(4-chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2,4-benzenetriamine
A solution of N1-(4-chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2,4-benzenetriamine (40 mg, 0.08 mmol) in 5 mL of CH2Cl2 was treated with pyridine (1 mL) and acetyl chloride (0.006 mL, 0.09 mmol). After 16 h, the mixture was treated with MeOH (1 mL) and then concentrated. The residue was partitioned between EtOAc and NaOH (aq). The organic layer was dried (MgSO4), concentrated, and purified by chromatography (17:3 CH2Cl2:MeOR), affording 32 mg (76%) of the title compound.

reactant | N1-(4-chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2,4-benzenetriamine | 0.08 mmol, 40 mg | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)N)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C25H26ClN5O3
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.09 mmol, 0.006 mL | C(C)(=O)Cl | C2H3ClO
reactant | MeOH | 1 mL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N4-Acetyl-N1-(4-chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2,4-benzenetriamine | 32 mg, 76% | C(C)(=O)NC=1C=C(C(=CC1)NC(C1=CC=C(C=C1)Cl)=O)NC(=O)OC(C1=CC=NC=C1)C1CCNCC1 | C27H28ClN5O4
